* D:\Users\SHIIWITOCKZRAT\Pictures\potencia\lab 3\BoostP3test2.asc
* Generated by LTspice 26.0.2 for Windows.
V1 5v 0 5
Vaux 15V COM 15
C2 COM 0 100p
R4 COM 0 1Meg
R13 COM N012 10k
M2 N002 N012 COM COM IRFZ44N
L2 ip- N002 2.7m Rser=1m
Vpot ip+ COM 10
D2 N002 N003 MUR460
R15 N003 COM 19.3
C5 N003 COM 22µ
R18 N012 N011 10
X§U1 ip+ ip- N013 asc 5v 0 ACS712 ;§pnba I+)I-)Filter)Out)V+)V-
C1 N013 0 1n
B1 N004 0 V=(V(asc)-(V(5v)/2))*5.405
Vsaw1 saw 0 PULSE(0 1 0 50u 1f 1p 50u)
B2 N001 0 V= 5*(V(d) > V(saw))
V3 setpoint 0 1.5
E1 ec 0 setpoint N004 Laplace=(46773*s+24490000)/((s+0.1)*(s+62832))
B4 d 0 V = limit(V(ec), 0, 1)
X§U2 0 N010 0 0 N001 N006 N011 5v N005 15V 15V COM COM N008 N007 N009 UCC21520_TRANS ;§pnba DISABLE)DT)GND)INA)INB)OUTA)OUTB)VCCI_0)VCCI_1)VDDA)VDDB)VSSA)VSSB)NC_0)NC_1)NC_2
.model D D
.lib C:\Users\SHIIWITOCKZRAT\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\SHIIWITOCKZRAT\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 60m 0 uic
.options reltol=0.01
.options abstol=1u
.options vntol=1m
.options plotwinsize=0
* Comparador
* Diente de sierra
* Acondicionador de Corriente
* Controlador
* Limitador
* MODULADOR PWM
* Microcontrolador
* SetPoint
* Potencia
* Control
* Library below included based on ModelFile attribute of instance X§U1 (D:\Users\SHIIWITOCKZRAT\Pictures\potencia\lab 3\ACS712.asy)
.lib ACS712.lib
* Library below included based on ModelFile attribute of instance X§U2 (D:\Users\SHIIWITOCKZRAT\Pictures\potencia\lab 3\UCC21520_TRANS.asy)
.lib UCC21520_TRANS.lib
.backanno
.end
